US08471005B2
A mixture of 4-(3-Amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (94 mg, 0.32 mmol), Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (100 mg, 0.3 mmol), 1-Methoxy-2-propanol (0.3 mL, 3 mmol), and N,N-Diisopropylethylamine (2 mL, 10 mmol) was heated and let stir overnight at 80° C. Concentrated added Hydrogen Chloride (2 mL, 60 mmol) and stir at room temperature for half and hour. The reaction was concentrated, dissolved in 2 mL DMSO, filtered and placed onto the Gilson. The pure fractions were frozen and lypholyzed over night to give [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(piperidin-4-yloxy)-phenyl]-amine

reactant | 4-(3-Amino-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 94 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)N | C16H24N2O3
reactant | Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.3 mmol, 100 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C14H10F3N3O4S
reactant | 1-Methoxy-2-propanol | 3 mmol, 0.3 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 10 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Hydrogen Chloride | 60 mmol, 2 mL | Cl | ClH
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[3-(piperidin-4-yloxy)-phenyl]-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)OC2CCNCC2 | C24H25N5O2
